datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20](OC)=[OH+:21])O)C>>[OH:21][CH:20]2(OC)C3=C(C(C([OH+:10]2)C)O)C=CC=C3 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OCC)CCCCCC.[O-:21]CC>>[H]N([C:20]([O-:10])(OCC)[O:21]CC)CCCCCC 21=20;20,10=10"
"[O:10]([Na])C(CC)C(O)C([C:20](OCC)=[O:21])O>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(CC)C(O)C1O 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])=C([H])C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)C(C)/C([H])=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[O:21]=[C:20](OC)OC1=CC=CC=C1.[O-:10][H]>>[H][O:10][C:20]([O-:21])(OC)OC1=CC=CC=C1 10=20;20,21=21"
"[H]C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1>>[H]C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)CCCCCC)CCCCCC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)CC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C)([NH]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([NH]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O:10]C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C(O)C1[H]>>[NH:10]([H])C([H])C(O)C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][H])([S][H])[O]CC.[Cl-]>>[Cl-].CC[O:10][H].[H][O+:21]=[C:20]([S][H])[O]CC 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
